US05231103
4-Methoxyphenyl cyclopentyl ketone
In analogy to the procedure of Example I, the title compound is prepared from 31 g (0.287 mol) of anisole, 46 g (0.345 mol) of aluminium chloride and 40 g (0.302 mol) of cyclopentanecarbonyl chloride.

reactant | anisole | 0.287 mol, 31 g | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminium chloride | 0.345 mol, 46 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclopentanecarbonyl chloride | 0.302 mol, 40 g | C1(CCCC1)C(=O)Cl | C6H9ClO
product | 4-Methoxyphenyl cyclopentyl ketone | C1(CCCC1)C(=O)C1=CC=C(C=C1)OC | C13H16O2
